US09388189B2
a) (S)-tert-Butyl (1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
(S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (560 mg, 0.87 mmol) was treated with 2-(2-(dimethylamino)ethylamino)benzenethiol (258 mg, 1.31 mmol), potassium carbonate (181 mg, 1.31 mmol) and copper(I) iodide (250 mg, 1.31 mmol) according to the method described in Preparation 44. The crude was purified using SP1® Purification System (0%-100%, hexane-ethyl acetate) to give 432 mg (90% yield) of the title compound as an oil.

reactant | (S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.87 mmol, 560 mg | IC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H21IN4O3
reactant | 2-(2-(dimethylamino)ethylamino)benzenethiol | 1.31 mmol, 258 mg | CN(CCNC1=C(C=CC=C1)S)C | C10H16N2S
reactant | potassium carbonate | 1.31 mmol, 181 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 1.31 mmol, 250 mg | [Cu]I
product | (S)-tert-Butyl (1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 432 mg, 90% yield | CN(CCNC1=C(C=CC=C1)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O)C | C29H36N6O3S
